US03969368
Ethyl spiro-(1,3-benzodioxol-2,1'-cyclopentane)-2'-carboxylate.
A mixture of 15.7 g. of ethyl cyclopentanone-2-carboxylate, 11 g. of pyrocatechol, 0.5 g. of p-toluenesulphochloride and 0.5g. of p-toluenesulphonic acid in 100 cc. of anhydrous benzene is refluxed until the theoretical amount of water no longer distils azeotropically. The mixture is washed first with dilute NaOH and then with H2O until neutral. After drying with Na2SO4 the solvent is removed under vacuum. The residual oil is fractionated, and the desired product boils at 136°-139°C./0.3 mm.

reactant | ethyl cyclopentanone-2-carboxylate | CCOC(=O)C1CCCC1=O | C8H12O3
reactant | pyrocatechol | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | Ethyl spiro-(1,3-benzodioxol-2,1'-cyclopentane)-2'-carboxylate | C12(C(CCC1)C(=O)OCC)OC1=C(O2)C=CC=C1 | C14H16O4
